US08604208B2
Aqueous hydrogen bromide (15 mL) was added to a reaction vessel containing sorafenib free base (3.0 g) and the reaction mixture was stirred for about 5 minutes. Temperature was raised to about 70° C. The reaction mixture was stirred for about 2 hours. Solid precipitated out. The reaction mixture was concentrated and purified by adding toluene (3×15 mL) and concentrated to obtain a solid. Ethanol (2 mL) was added. The reaction mixture was stirred for about 5 minutes followed by addition of diisopropyl ether (5 mL). The solid was filtered and dried at about 50° C. for about 12 hours to obtain sorafenib hydrobromide.

reactant | hydrogen bromide | 15 mL | Br | BrH
reactant | sorafenib | 3.0 g | CNC(=O)C=1C=C(C=CN1)OC=2C=CC(=CC2)NC(=O)NC=3C=CC(=C(C3)C(F)(F)F)Cl | C21H16ClF3N4O3
reactant | diisopropyl ether | 5 mL | C(C)(C)OC(C)C | C6H14O
solvent | Ethanol | 2 mL | C(C)O | C2H6O
product | sorafenib hydrobromide | Yield: 73.8% | CNC(=O)C=1C=C(C=CN1)OC=2C=CC(=CC2)NC(=O)NC=3C=CC(=C(C3)C(F)(F)F)Cl.Br | InChI=1S/C21H16ClF3N4O3.BrH/c1-26-19(30)18-11-15(8-9-27-18)32-14-5-2-12(3-6-14)28-20(31)29-13-4-7-17(22)16(10-13)21(23,24)25;/h2-11H,1H3,(H,26,30)(H2,28,29,31);1H
